3
V483502 1 0 PULSE 0 15 0 0.1 0 0 1 1
V483503 2 0 DC 7
M9913 1 2 3 N 1.9999999999999998e-05 1e-06 0.01 9.999999999999999e-05 0.5
R1026 3 0 1
.TRAN 0.1 1e-05 BE 1 